US08426411B2
To a solution of cis-ethyl 3-(4-cyanobenzyloxy)cyclobutanecarboxylate (0.44 g, 1.70 mmol) in 1,4-dioxane (10 mL) was added aqueous NaOH (1 N, 2.0 mL). The reaction was stirred at about 25° C. for about 16 h. The reaction was partitioned between 10% aqueous AcOH (20 mL) and EtOAc (25 mL). The layers were separated and the aqueous layer was extracted with additional EtOAc (25 mL). The combined organic extracts were washed with brine (20 mL), dried over anhydrous Na2SO4, filtered then concd in vacuo to give cis-3-(4-cyanobenzyloxy)-cyclobutanecarboxylic acid (0.24 g, 60%): LC/MS (Table 1, Method b) Rt=1.67 min; MS m/z: 232 (M+H)+.

reactant | cis-ethyl 3-(4-cyanobenzyloxy)cyclobutanecarboxylate | 1.70 mmol, 0.44 g | C(#N)C1=CC=C(CO[C@H]2C[C@H](C2)C(=O)OCC)C=C1 | C15H17NO3
reactant | NaOH | 1 N, 2.0 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | cis-3-(4-cyanobenzyloxy)-cyclobutanecarboxylic acid | 0.24 g, 60% | C(#N)C1=CC=C(CO[C@H]2C[C@H](C2)C(=O)O)C=C1 | C13H13NO3
